US08623889B2
Step 1: 4-chloro-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine
A solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (60.8 mg, 241 μmol) in dichloromethane (2.0 mL) was treated with N-chlorosuccinimide (35.2 mg, 264 μmol) at ambient temperature. After 24 h the mixture was absorbed directly onto silica gel in vacuo and purified by flash chromatography (silica, ISCO, 0-6% methanol in dichloromethane) to yield the title compound as a pale orange solid (59.0 mg, 85%). 1H NMR (400 MHz, CDCl3) δ 8.80 (s, 1H), 7.98 (d, J=8.7 Hz, 1H), 7.73 (s, 1H), 7.62 (d, J=8.7 Hz, 1H), 7.30-7.20 (m, 2H), 7.00 (t, J=8.3 Hz, 2H), 4.95 (s, 2H), 2.25 (s, 3H). 1H NMR (400 MHz, DMSO) δ 8.90 (s, 1H), 7.93 (s, 1H), 7.84 (d, J=8.8 Hz, 1H), 7.70 (d, J=8.8 Hz, 1H), 7.40-7.34 (m, 1H), 7.18-7.12 (m, 2H), 6.40 (s, 2H), 2.24 (s, 3H). LCMS (Method E): RT=5.508 min, M+H+=287.0 & 289.0.

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 241 μmol, 60.8 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | N-chlorosuccinimide | 264 μmol, 35.2 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 4-chloro-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 59.0 mg, 85% | ClC1=C(N=CC2=CC(=CC=C12)C1=C(C=CC(=C1)F)C)N | C16H12ClFN2
